US07732461B2
(4R)-4-[(4-{[(7-Chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride
A mixture of (4R)-4-[(4-amino-1-piperidinyl)methyl]-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Enantiomer 1 (50 mg, 016 mmol) and 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003064421, Example 15(c) (33 mg, 0.16 mmol) in anhydrous dichloromethane (1.5 mL) and anhydrous methanol (0.1 mL) was treated with triacetoxyborohydride (105 mg, 0.49 mmol). After 16 hours, an aqueous solution of sodium bicarbonate was added. The free base of the title compound came out of solution and was isolated by filtration, washed with water and dried in vacuo (50 mg, 60%).

reactant | (4R)-4-[(4-amino-1-piperidinyl)methyl]-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | NC1CCN(CC1)C[C@@H]1CN2C=3C1=C(C=NC3C=CC2=O)F | C16H19FN4O
reactant | 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | ClC1=CC=2OCC(NC2N=C1C=O)=O | C8H5ClN2O3
reactant | triacetoxyborohydride | 0.49 mmol, 105 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | methanol | 0.1 mL | CO | CH4O
product | (4R)-4-[(4-{[(7-Chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride | Cl.ClC1=CC=2OCC(NC2N=C1CNC1CCN(CC1)C[C@@H]1CN2C=3C1=C(C=NC3C=CC2=O)F)=O | InChI=1S/C24H24ClFN6O3.ClH/c25-15-7-19-24(30-20(33)12-35-19)29-18(15)9-27-14-3-5-31(6-4-14)10-13-11-32-21(34)2-1-17-23(32)22(13)16(26)8-28-17;/h1-2,7-8,13-14,27H,3-6,9-12H2,(H,29,30,33);1H/t13-;/m1./s1
